US06569851B1
Step B: Synthesis of 3-Amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one
A solution of 3-(benzoxycarbonyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one (1.42 g, 2.87 mmol) in 50 mL of anhydrous methylene chloride was cooled to 0° C. under nitrogen. A stream of anhydrous HBr gas was slowly bubbled through the solution for 1 h. The bubbler was removed and the reaction was warmed to room temperature under nitrogen. After stirring for 1 h, the reaction was concentrated under vacuum and the residue was redissolved in 10 mL of methylene chloride. The crude HBr salt of the product was precipitated from solution using 90 mL of anhydrous ether and collected by filtration. After washing with ether, the HBr salt was dissolved in methylene chloride and saturated sodium bicarbonate. The layers were separated and the organic layer was extracted with saturated sodium bicarbonate. The combined aqueous layers were then back extracted twice with methylene chloride. The combined organic layers were extracted once with water and dried over sodium sulfate. After concentration under vacuum, 1.06 g (100%) of the product was obtained as a white foam which was carried on without further purification.

reactant | 3-(benzoxycarbonyl)amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one | 2.87 mmol, 1.42 g | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCCC(F)(F)F)=O | C27H24F3N3O3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Amino-2,3-dihydro-1-(4,4,4-trifluorobutyl)-5-phenyl-1H-1,4-benzodiazepin-2-one | 1.06 g, 100% | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCCC(F)(F)F)=O | C19H18F3N3O
